US08278304B2
Step A: Methyl (2R)-phenyl[(trifluoroacetyl)amino]acetate.
Methyl (2R)-amino(phenyl)acetate hydrochloride (2.10 g, 10.4 mmol) was dissolved in EtOAc and extracted with brine, containing NaHCO3. The organic layer was isolated and dried with Na2SO4, filtered and concentrated. The free base methyl ester was dissolved in THF (20 mL) and cooled to −78° C. NEt3 (1.7 mL, 12.5 mmol) and trifluoroacetic anhydride (1.8 mL, 12.5 mmol) were added and the reaction was aged for 3 h while allowing it to come to rt. EtOAc was added and the mixture was washed with acidic brine. The organic layer was collected and washed with NaHCO3 (sat), dried with Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel gradient eluted with 0-15% EtOAc/hexane affording the title compound. HPLC/MS: 262.0 (M+1); Rt=2.83 min.

reactant | Methyl (2R)-amino(phenyl)acetate hydrochloride | 10.4 mmol, 2.10 g | Cl.N[C@@H](C(=O)OC)C1=CC=CC=C1
reactant | NEt3 | 12.5 mmol, 1.7 mL | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 12.5 mmol, 1.8 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl (2R)-phenyl[(trifluoroacetyl)amino]acetate | C1(=CC=CC=C1)[C@H](C(=O)OC)NC(C(F)(F)F)=O | C11H10F3NO3
